US06667322B2
To a solution of (2S)-4-[2-(benzyloxy)-3-methoxyphenyl]-1,2-butanediol (8.00 g, 26.5 mmol) in N,N-dimethylformamide (250 mL) cooled to 0° C. was added tert-butyldimethylsilyl chloride (4.39 g, 29.1 mmol) followed by imidazole (2.16 g, 31.8 mmol) and the reaction mixture was allowed to stir at room temperature for 4 h. The reaction mixture was diluted with water (500 mL) and ethyl acetate (200 mL). The aqueous phase was separated and extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with aqueous hydrogen chloride (200 mL), water (4×200 mL), aqueous sodium chloride (300 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude oil. The residue was dissolved in ethanol (300 mL), palladium on carbon (10 wt. %, 1.00 g) was added, and the reaction mixture was shaken under an H2 atmosphere (50 psi) for 6 h. The reaction mixture was filtered (celite) and the solvent removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:4) gave 7.33 g (85%, 40% ee) of 2-((3S)-4-{[tert-butyl(dimethyl)silyl]oxy}-3-hydroxybutyl)-6-methoxyphenol as a colorless oil which crystallized upon standing. Rf=0.53 (silica, ethyl acetate:hexanes 1:4); mp 44-46° C.; Anal. Calcd. for C17H30O4Si: C, 62.54; H, 9.26. Found: C, 62.41; H, 9.19.

reactant | (2S)-4-[2-(benzyloxy)-3-methoxyphenyl]-1,2-butanediol | 26.5 mmol, 8.00 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1OC)CC[C@@H](CO)O | C18H22O4
reactant | tert-butyldimethylsilyl chloride | 29.1 mmol, 4.39 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 31.8 mmol, 2.16 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | water | 500 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.00 g | [Pd] | Pd
product | 2-((3S)-4-{[tert-butyl(dimethyl)silyl]oxy}-3-hydroxybutyl)-6-methoxyphenol | 7.33 g, 85% | [Si](C)(C)(C(C)(C)C)OC[C@H](CCC1=C(C(=CC=C1)OC)O)O | C17H30O4Si
